data/core_train_final.csv
"[H:1][C:2]([H:3])[CH:4]1[CH2:5][CH2:6][CH2:7][CH2:8][CH2:9]1.[H:10][Sn:11]([CH2:12][CH2:13][CH2:14][CH3:15])([CH2:16][CH2:17][CH2:18][CH3:19])[CH2:20][CH2:21][CH2:22][CH3:23]>>[H:1][C:2]([H:3])([H:10])[CH:4]1[CH2:5][CH2:6][CH2:7][CH2:8][CH2:9]1.[CH3:15][CH2:14][CH2:13][CH2:12][Sn:11]([CH2:16][CH2:17][CH2:18][CH3:19])[CH2:20][CH2:21][CH2:22][CH3:23] 2-2,10;10,11-2,10;10,11-11",Room Temperature,Propagation,abstraction
"[H:20][CH:21]1CCC(C1)C.[Cl:10]>>[H:20][Cl:10].CC1CC[CH:21]C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH:14]1=[CH:13][CH:12]=[C:11]([CH:16]=[CH:15]1)[C:10]2=[C:8]([C:7](=[O:18])[C:6]3=[C:4]([CH:3]=[C:2]([CH:20]=[C:19]3[O:17]2)[OH:1])[OH:5])[O:9]>>[CH:14]1=[CH:13][CH:12]=[C:11]([CH:16]=[CH:15]1)[C:10]2[C:8](=[O:9])[C:7](=[O:18])[C:6]3=[C:4]([CH:3]=[C:2]([CH:20]=[C:19]3[O:17]2)[OH:1])[OH:5] 9-8,9; 8,10-8,9; 8,10-10",Room Temperature,Propagation,resonance
"CCCC[CH2:10].[CH2:20]CCCC>>CCCC[CH2:10][CH2:20]CCCC 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:10]1CC2C(C2(C)C)CC1O[N+](=O)[O-].[O:20][O]>>CC1(C2C1C[C:10](C(C2)O[N+](=O)[O-])(C)[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:20]C1=CC=C(C=C1)[N+](=O)[O-].[Br:10][Br:11]>>C1=CC(=CC=C1[CH2:20][Br:10])[N+](=O)[O-].[Br:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"[CH3:10].C[C:21](=[CH2:20])C(=O)OC>>[CH3:10][CH2:20][C:21](C)C(=O)OC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][CH:21](C)CCBr.[Cl:10]>>[H:20][Cl:10].C[CH:21]CCBr 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:5][C:4]([CH3:6])([CH3:7])[C:3]1=[C:2]([CH:13]=[CH:12][C:9](=[CH:8]1)[O:10][CH3:11])[O:1]>>[CH3:5][C:4]([CH3:6])([CH3:7])[C:3]1[CH:8]=[C:9]([CH:12]=[CH:13][C:2]1=[O:1])[O:10][CH3:11] 1-1,2; 2,3-1,2; 2,3-3",Room Temperature,Propagation,resonance
"[H:1][CH:2]1[CH2:3][CH2:4][CH2:5][CH:6]([CH2:8]1)[CH3:7].[CH3:9][C:10]([N:12][C:13]([C:14]2=[CH:15][C:16]([C:17]([F:19])([F:20])[F:18])=[CH:21][C:22]([C:23]([F:25])([F:26])[F:24])=[CH:27]2)=[O:28])([CH3:29])[CH3:11]>>[H:1][N:12]([C:13]([C:14]3=[CH:27][C:22]([C:23]([F:24])([F:26])[F:25])=[CH:21][C:16]([C:17]([F:20])([F:19])[F:18])=[CH:15]3)=[O:28])[C:10]([CH3:29])([CH3:11])[CH3:9].[CH3:7][CH:6]4[CH2:8][CH2:4][CH2:3][CH:2][CH2:5]4 1,2-1,12; 12-1,12; 1,2-2",Room Temperature,Propagation,abstraction
"CC(O[N+]([O-])=O)C([O:10][N+:11]([O-])=O)C.[Ar]>>[Ar].CC(O[N+]([O-])=O)C([O:10])C.[O-][N+:11]=O 10,11-10;10,11-11",Heat,Initiation,homolyze
"[H:1][C:2]1=[C:3]([CH:5]=[CH:6][CH:7]=[CH:8]1)[H:4].[CH:10]1=[CH:9][CH:14]=[C:13][CH:12]=[CH:11]1>>[H:4][C:3]1[CH:5]=[CH:6][CH:7]=[CH:8][C:2]1([H:1])[C:13]2=[CH:14][CH:9]=[CH:10][CH:11]=[CH:12]2 13-2,13;2,3-2,13;2,3-3",Room Temperature,Propagation,addition
"[H:6][C:5]([H:7])([H:8])[CH2:4][CH:3]([CH2:2][CH3:1])[CH2:9][CH3:10].[Cl:11]>>[H:6][C:5]([H:7])[CH2:4][CH:3]([CH2:2][CH3:1])[CH2:9][CH3:10].[H:8][Cl:11] 11-11,8;8,5-8,11;8,5-5",Room Temperature,Propagation,abstraction
"CCCC([CH2:10])Cl.[Cl:20][Cl:21]>>CCCC([CH2:10][Cl:20])Cl.[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(CC[CH:20]=[C:21](C)C)[CH:10]CCC(=O)O>>CC1CC[CH:20]([CH:10]1CCC(=O)O)[C:21](C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:4][C:3]([H:5])([H:6])[C:2]1([CH2:7][CH:8]([CH2:10]1)[CH3:9])[CH3:1].[Cl:11]>>[H:4][C:3]([H:5])[C:2]1([CH2:7][CH:8]([CH2:10]1)[CH3:9])[CH3:1].[H:6][Cl:11] 11-11,6;6,3-6,11;3,6-3",Room Temperature,Propagation,abstraction
"[H:20][CH:21]1CCC=C1.C1CC(=O)[N:10]C1=O>>[H:20][N:10]1C(=O)CCC1=O.C1C[CH:21]C=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:6][C:5]([H:7])[CH2:4][CH2:3][CH2:2][CH3:1].[Cl:8][Cl:9]>>[H:6][C:5]([H:7])([CH2:4][CH2:3][CH2:2][CH3:1])[Cl:8].[Cl:9] 5-5,8;8,9-5,8;8,9-9",Room Temperature,Propagation,abstraction
"C=C[CH:10]C1CCCCC1.[Br:20][Br:21]>>C=C[CH:10](C1CCCCC1)[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC[Sn:10](CCCC)CCCC.CC1(CC(C=C1)CCC#C)CC[C:21](C)(C)[Br:20]>>CCCC[Sn:10](CCCC)(CCCC)[Br:20].C[C:21](C)CCC1(CC(C=C1)CCC#C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH2:21]C(=C)C1=CC=CC=C1.CC(C)(C1=CC=CC=C1)O[O:10].C1C=CCCC1>>[H:20][O:10]OC(C)(C)C1=CC=CC=C1.C=C([CH2:21])C1=CC=CC=C1.C1C=CCCC1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"COC(=O)[C:10](CCC1CC[CH:21]=[CH:20]1)C(=O)OC>>COC(=O)[C:10]1(CCC2[CH:20]1[CH:21]CC2)C(=O)OC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[OH:1][OH:2].[Ar]>>[Ar].[OH:1].[OH:2] 2,1-1;2,1-2",Heat,Initiation,homolyze
"[S:10]CC.[CH:20]1=[CH:21]CCC1>>CC[S:10][CH:20]2[CH:21]CCC2 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C)C(/[CH:20]=[N:21]/N(C1=CC=CC=C1)C2=CC=CC=C2)O[Si](C)(C)[CH:10]CSC3=CC=CC=C3>>CC(C)C1[CH:20]([CH:10](CSC2=CC=CC=C2)[Si](C)(C)O1)[N:21]N(C3=CC=CC=C3)C4=CC=CC=C4 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
